US05807863
2,5-Dichlorophenylhydrazine hydrochloride (240 g, 1.1 mol) and acrylamide (100 g, 1.4 mol) is refluxed in a solution of sodium (56 g, 2.4 mol) in ethanol (1000 ml) and toluene (1000 ml) for 3 hours. Evaporation of the solvents, acidification with acetic acid dilution with water, filtration and drying (high vacuum, +100° C.) gives the 1-(2,5-dichlorophenyl)-3-pyrazolidone.

reactant | 2,5-Dichlorophenylhydrazine hydrochloride | 1.1 mol, 240 g | Cl.ClC1=C(C=C(C=C1)Cl)NN
reactant | acrylamide | 1.4 mol, 100 g | C(C=C)(=O)N | C3H5NO
reactant | sodium | 2.4 mol, 56 g | [Na] | Na
solvent | ethanol | 1000 ml | C(C)O | C2H6O
solvent | toluene | 1000 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2,5-dichlorophenyl)-3-pyrazolidone | ClC1=C(C=C(C=C1)Cl)N1NC(CC1)=O | C9H8Cl2N2O
